US04654347
A 25 ml portion of acetic anhydride was cooled at 0° C. in an ice bath. A 12.5 ml portion of formic acid was added, the mixture was heated at 50° C. for 15 minutes then cooled to 0° C., giving 9.69 g of crude mixed formicacetic anhydride. This anhydride was reacted with 13.52 g of m-aminoacetophenone, 14.21 g of diisopropylethylamine and 800 ml of dichloromethane as described in Example 1, giving 13.27 g of N-(3-acetylphenyl)formamide, mp 100°-102° C.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | C(=O)O | CH2O2
reactant | m-aminoacetophenone | 13.52 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | diisopropylethylamine | 14.21 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | N-(3-acetylphenyl)formamide | 13.27 g | C(C)(=O)C=1C=C(C=CC1)NC=O | C9H9NO2
